US08039460B2
Step A: tert-Butyl [(6S,9R)-3-{(E)-[(tert-butylsulfinyl)imino]methyl}-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate
Titanium (IV) ethoxide (239 mg, 1.05 mmol) was added to a solution of tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-formyl-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate (205 mg, 0.524 mmol) and (R)-2-methylpropane-2-sulfinamide (79 mg, 0.655 mmol) in tetrahydrofuran (8 mL). The reaction mixture was heated to 60° C. After 6 h, the reaction mixture was allowed to cool to ambient temperature. Saturated sodium bicarbonate was added and the mixture was extracted with dichlormethane (3×). The organic extracts were dried with magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→95% dichloromethane/methanol) gave the title compound (252 mg). MS 495.2 (M+1).

reactant | tert-butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-formyl-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 0.524 mmol, 205 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C=O)NC(OC(C)(C)C)=O | C20H23F2N3O3
reactant | (R)-2-methylpropane-2-sulfinamide | 0.655 mmol, 79 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
catalyst | Titanium (IV) ethoxide | 1.05 mmol, 239 mg | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | tert-Butyl [(6S,9R)-3-{(E)-[(tert-butylsulfinyl)imino]methyl}-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 252 mg | C(C)(C)(C)S(=O)\N=C\C1=CN=C2N1C[C@@H](CC[C@H]2NC(OC(C)(C)C)=O)C2=C(C(=CC=C2)F)F | C24H32F2N4O3S
